US08314240B2
133 mg of N-[(2S)-2-fluoropropyl]-N-(6-hydroxy-2,3-dihydro-1H-inden-5-yl)-4-methyl-1,3-thiazole-2-sulfonamide, 94.4 mg of tributylphosphine, and 71.5 mg of ethyl 5-(hydroxymethyl)pyridine-2-carboxylate were dissolved in 1.33 mL of THF, and 118 mg of 1,1′-[(E)-diazene-1,2-diyldicarbonyl]dipiperidine was added thereto, followed by stirring overnight at room temperature. After the insoluble materials were removed by filtration, the solvent was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=80:20) to obtain 116 mg of ethyl 5-{[(6-{[(2S)-2-fluoropropyl][(4-methyl-1,3-thiazol-2-yl)sulfonyl]amino}-2,3-dihydro-1H-inden-5-yl)oxy]methyl}pyridine-2-carboxylate.

reactant | N-[(2S)-2-fluoropropyl]-N-(6-hydroxy-2,3-dihydro-1H-inden-5-yl)-4-methyl-1,3-thiazole-2-sulfonamide | 133 mg | F[C@H](CN(S(=O)(=O)C=1SC=C(N1)C)C=1C=C2CCCC2=CC1O)C | C16H19FN2O3S2
reactant | tributylphosphine | 94.4 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ethyl 5-(hydroxymethyl)pyridine-2-carboxylate | 71.5 mg | OCC=1C=CC(=NC1)C(=O)OCC | C9H11NO3
reactant | 1,1′-[(E)-diazene-1,2-diyldicarbonyl]dipiperidine | 118 mg | N(=N\C(=O)N1CCCCC1)/C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 1.33 mL | C1CCOC1 | C4H8O
product | ethyl 5-{[(6-{[(2S)-2-fluoropropyl][(4-methyl-1,3-thiazol-2-yl)sulfonyl]amino}-2,3-dihydro-1H-inden-5-yl)oxy]methyl}pyridine-2-carboxylate | 116 mg | F[C@H](CN(C1=C(C=C2CCCC2=C1)OCC=1C=CC(=NC1)C(=O)OCC)S(=O)(=O)C=1SC=C(N1)C)C | C25H28FN3O5S2
